US03956495
Eight grams of 2,4-dichloroquinazoline was cautiously added to 25 ml of morpholine; a vigorous reaction ensued upon mixing. After the initial reaction subsided, the mixture then was heated at 110° overnight. The reaction mixture was poured into water, and the resulting aqueous solution was extracted with several portions of ether. The combined ether extracts were washed with water, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated to dryness and the residue was recrystallized from aqueous ethanol, giving 8 g of 2,4-bismorpholinoquinazoline; m.p. 172°-174°. The following analytical data were obtained:

reactant | 2,4-dichloroquinazoline | Eight grams | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | morpholine | 25 ml | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | 2,4-bismorpholinoquinazoline | 8 g | O1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)N1CCOCC1 | C16H20N4O2
